US06297375B1
N-(6-Benzenesulfonylamino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide
To a solution of 100 mg (0.2 mmol) N-(6-amino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide in 4 ml dichloromethane and 85 μl N-ethyldiisopropylamine were added 56 μl (0.436 mmol) benzenesulfonyl chloride and the mixture was stirred over night at room temperature. The reaction mixture was washed twice with saturated aqueous sodium hydrogencarbonate solution and dried (magnesium sulfate). Chromatography of the residue afforded 26 mg (28%) of the title compound as a white foam.

reactant | N-(6-amino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.2 mmol, 100 mg | NC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)C | C25H23F6N3O
reactant | benzenesulfonyl chloride | 0.436 mmol, 56 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | N-ethyldiisopropylamine | 85 μl | C(C)N(C(C)C)C(C)C | C8H19N
product | N-(6-Benzenesulfonylamino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 26 mg, 28% | C1(=CC=CC=C1)S(=O)(=O)NC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)C | C31H27F6N3O3S
